US06313312B1
3-Hexyl-6-phenyl-3-azabicyclo[3.1.0]hexan-2-one
To a solution of ethyl 2-(bromomethyl)-3-phenylcyclopropanecarboxylate (Preparation 26, 65 mg, 0.22 mmol) in N,N-dimethylformamide (2 ml) was added sodium hydrogen carbonate (30 mg, 0.36 mmol) and hexylamine (33 μl, 26 mg, 0.26 mmol), and the mixture was heated to 150° C. for 3 h. The mixture was cooled, water (30 ml) was added, and the mixture was extracted with diethyl ether (2×30 ml). The extracts were combined, dried (Na2SO4), filtered and concentrated in vacuo. The mixture was purified by silica column (5 g) chromatography eluting with 4:1 dichloromethane:ethyl acetate. Product-containing fractions were combined and concentrated in vacuo to give the title compound as a colourless oil (45 mg, 76%).

reactant | ethyl 2-(bromomethyl)-3-phenylcyclopropanecarboxylate | 0.22 mmol, 65 mg | BrCC1C(C1C1=CC=CC=C1)C(=O)OCC | C13H15BrO2
reactant | sodium hydrogen carbonate | 0.36 mmol, 30 mg | C(O)([O-])=O.[Na+]
reactant | hexylamine | 0.26 mmol, 33 μl, 26 mg | C(CCCCC)N | C6H15N
reactant | water | 30 ml | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-Hexyl-6-phenyl-3-azabicyclo[3.1.0]hexan-2-one | 45 mg, 76% | C(CCCCC)N1C(C2C(C2C1)C1=CC=CC=C1)=O | C17H23NO
